US05840751
6-[1,1'-Biphenyl]-4-yl-6-butyl-5,6-dihydro-4-hydroxy-2H-pyran-2-one (±)
The title compound was prepared as described in General Method 1 using 13 g ethyl acetoacetate, 5.3 g of NaH 60% dispersion in oil, 60 mL of 1.6M n-butyl lithium in hexane, 21 g of 1-[1,1'-biphenyl]-4-yl-1-pentanone and 300 mL of tetrahydrofuran. After addition of the ketone, the reaction was stirred 15 minutes at -78° C. and 2 hours at room temperature. The crude reaction mixture afforded a solid which was washed with CH2 Cl2 and two times with ethyl acetate (m.p. 165°-170° C). 1H NMR(d6 -DMSO) δ 0.7-1.9 (m, 7 H), 2.0 (m, 2 H), 3.0 (s, 2 H), 4.9 (s, 1 H), 7.3-7.8 (m, 9 H), 11.3 (s, 1 H).

reactant | ethyl acetoacetate | 13 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | NaH | 5.3 g | [H-].[Na+]
reactant | n-butyl lithium | 1.6M, 60 mL | C(CCC)[Li]
reactant | 1-[1,1'-biphenyl]-4-yl-1-pentanone | 21 g | C1(=CC=C(C=C1)C(CCCC)=O)C1=CC=CC=C1 | C17H18O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 6-[1,1'-Biphenyl]-4-yl-6-butyl-5,6-dihydro-4-hydroxy-2H-pyran-2-one | C1(=CC=C(C=C1)C1(CC(=CC(O1)=O)O)CCCC)C1=CC=CC=C1 | C21H22O3
